US08426411B2
To a solution of (1R,3S)-3-(aminomethyl)cyclopentanecarboxylic acid (0.500 g, 3.49 mmol, AFID) in THF (4 mL) and water (4 mL) was added Na2CO3 (1.11 g, 10.5 mmol) and di-tert-butyl dicarbonate (0.915 g, 4.19 mmol). The reaction was stirred at ambient temperature for about 4 h. EtOAc (15 mL) and aqueous HCl (1 N, 15 mL) were added and the layers were separated. The aqueous layer was extracted with EtOAc (2×10 mL) and the combined organic layers were washed with brine (10 mL). The organic layer was dried over anhydrous Na2SO4, filtered, and concd under reduced pressure to give (1R,3S)-3-((tert-butoxycarbonylamino)methyl)cyclopentanecarboxylic acid (0.300 g, 35%). 1H NMR (DMSO-d6) δ 11.97 (s, 1H), 6.83 (s, 1H), 2.89-2.86 (t, J=8.0 Hz, 2H), 2.73-2.58 (m, 1H), 2.04-1.87 (m, 2H), 1.82-1.68 (m, 2H), 1.68-1.58 (m, 1H), 1.37 (s, 9H), 1.34-1.19 (m, 2H).

reactant | (1R,3S)-3-(aminomethyl)cyclopentanecarboxylic acid | 3.49 mmol, 0.500 g | NC[C@@H]1C[C@@H](CC1)C(=O)O | C7H13NO2
reactant | Na2CO3 | 10.5 mmol, 1.11 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | di-tert-butyl dicarbonate | 4.19 mmol, 0.915 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 1 N, 15 mL | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | 4 mL | O | H2O
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | (1R,3S)-3-((tert-butoxycarbonylamino)methyl)cyclopentanecarboxylic acid | 0.300 g, 35% | C(C)(C)(C)OC(=O)NC[C@@H]1C[C@@H](CC1)C(=O)O | C12H21NO4
